US06916825B2
8. (7R,8R,9R)-2,3,7-Trimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine
3.5 g of (8R,9R)-2,3-dimethyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one are suspended in 70 ml of tetrahydrofuran under argon and treated dropwise at −50° C. with a solution of methyllithium (1.6M solution in diethyl ether). The temperature is then allowed to rise to room temperature, and the mixture is poured into a saturated aqueous ammonium chloride solution and extracted three times with 100 ml of dichloromethane each time. The combined organic phases are washed with a little water, dried over sodium sulfate and concentrated to dryness in vacuo. The oily residue obtained is chromatographed on silica gel (eluent: dichloromethane/methanol 13/1). 1.66 g of the title compound are obtained as colorless crystals of melting point 137-8° C. (diethyl ether).

reactant | (8R,9R)-2,3-dimethyl-8-hydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 3.5 g | CC=1N=C2N(C=CC=3C([C@@H]([C@H](NC23)C2=CC=CC=C2)O)=O)C1C | C18H17N3O2
reactant | methyllithium | 1.6M | C[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | (7R,8R,9R)-2,3,7-Trimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]-naphthyridine | 1.66 g | CC=1N=C2N(C=CC=3[C@]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)(O)C)C1C | C19H21N3O2
